Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
binocular vertical diplopia 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
NEUROLOGY STROKE ADMISSION/CONSULT NOTE

Not a code stroke

___ Stroke Scale Score: 6

t-PA administered: 
[] Yes - Time given: __
[x] No - Reason t-PA was not given or considered: past time
window

Thrombectomy performed: 
[] Yes 
[x] No - Reason not performed or considered: no LVO

NIHSS Performed within 6 hours of presentation at: 18:20 on
___  
NIHSS Total: 6
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 1
3.  Visual fields: 0
4.  Facial palsy: 1
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 1
6b. Motor leg, right: 1
7.  Limb Ataxia: 2
8.  Sensory: 0
9.  Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0
 

REASON FOR CONSULTATION: diplopia
 
HPI: 
___ year old right-handed man with past medical history of TIA,
stroke, hypertension, hyperlipidemia, L3-L4 spinal stenosis
presents with binocular vertical diplopia.

History obtained from patient and 2 daughters at the bedside.

Last night, the patient went to bed at 9 pm after watching TV. 
He was in his usual state of health and he did not notice any
symptoms before going to bed.

He woke up this morning at 7 am, which is unusually late for him
(he usually wakes up at 5 AM). He looked over to the clock and
noticed double vision. Clock was 8 feet away. Diplopia is
binocular and vertical. Right on top of each other with the
bottom image slightly more to the right. He looks at clock in 
the
ED room and he see two clocks on top of each other. Diplopia is
about the same no matter distance far away her close.  Diplopia
has been constant.  It resolves when he closes 1 eye or the
other.
When he covered his right eye, the bottom image disappeared. 
When he covered his left eye, the top image disappeared.

In addition, he feels that his walking is unsteady today.  He
does not feel like he is falling in any particular direction.  
He
just feels like his walking is off, which he attributes to his
lumbar spinal stenosis.

Of note, he was on full dose aspirin 325 mg for many years after
his stroke and aspirin was just reduced to 81 mg baby aspirin
recently after seeing his cardiologist. At ___, he got a full
325mg dose today. 

In ___, he had a TIA with vertical diplopia, which lasted about
4 days and improved.  At that time when he first noticed initial
diplopia, he had LOC and lost consciousness while on a golf
course.  He was brought to hospital. Then over the next month,. 
Came and went. It occurred most frequently when seeing small
words scrolling across TV. He went to the hospital and the
specialist said his symptoms was not due to intraocular
pathology.  

Per ___ hospital records, in ___, patient was in the
ED
For symptoms of diplopia again.  Since that he was discharged
with ophthalmology follow-up.
Per patient's 2 daughters who are RNs, patient was diagnosed 
with
a small stroke that caused his diplopia in the past.  They are
not sure where the stroke is.  But he has been on full dose
aspirin for many years because of this.

Patient is listed as having issues of ataxia in the past. 
Patient clarifies that the ataxia was trouble walking
intermittently for many years. 

At ___, CTA showed 75 to 80% right ICA stenosis.  Patient was
transferred for vascular consult.

He has a mild headache in back of head which occurs frequently
for him.  He feels a little lightheadness.  No vertigo.

ROS: He has had a minor dry cough.
On neurological review of systems, the patient denies  
confusion,
difficulties producing or comprehending speech, loss of vision,
blurred vision, dysarthria, dysphagia,  vertigo, tinnitus. 
Denies
focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. 
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies  
shortness
of breath, chest pain or tightness, palpitations.  Denies 
nausea,
vomiting, diarrhea, constipation or abdominal pain.  Denies
dysuria, or recent change in bowel or bladder habits.  Denies
arthralgias, myalgias, or rash.

 
Past Medical History:
Hypertension 
Dyslipidemia 
TIA -diplopia
Small stroke - ___ diplopia 
Gastric reflux disease with ___ esophagus 
soft tissue surgery of both ears . One was "mastoid bone fixed"
surgeries for hearing and maybe repair of ear drum
asbestosis
Patient is listed also is having issues of ataxia in the past.

L3-L4 spinal stenosis pending surgery               

 
Social History:
___
Family History:
Mother - had stroke ___, ___ 
Brother - lots of cancer - Agent Orange 
 
Physical Exam:
Physical Exam on admission and discharge unchanged:
PHYSICAL EXAMINATION: 
Vitals: T: 98.3   HR: 74   BP: 139/93 RR: 18   SaO2: 95% on RA

General: Awake, cooperative, pleasant elderly man NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to ___, exact date. Able
to relate history without difficulty. Attentive, able to name 
___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects.  Able to read without difficulty. No dysarthria. Able 
to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. L partial ptosis. L
eye down and intorted
Restricted upgaze b/l, with some limited downgaze as well. R eye
able to abduct and adduct fully. L eye can adduct fully but on
abduction L eye appears down and out and is unable to move
higher. L beating torsional nystagmus on L lateral gaze on L 
eye.
Unable to break restricted upgaze with VORs. 
VFF to confrontation.  
V: Facial sensation intact to light touch.
VII: Left NLFF, symmetric on activation
VIII: Hearing impaired bilaterally.  Worse in the right ear
because only the left ear has a hearing aid today
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick throughout. 
Unable to assess joint position sense in great terms as patient
is moving.  No extinction to DSS. Romberg positive even with 
feet
apart, sways backwards.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     0
R   2     2      2      2     0 
Plantar response was withdrawal bilaterally.

-Coordination: On FNF with only one eye open, past-pointing with
RUE and consistently missing towards the R on LUE. 
Subtle dysmetria b/l on HKS

-Gait: Poor initiation. Very hesitant short steps. Looks very
unsteady and needs to reach out to steady himself. Looked like a
fall risk and aborted testing after walking 2 feet. 

Exam at time of DC: alert, eyepatch on right eye this am. Left 
eye is downward and slightly inward. No conjugate vertical 
diplopia. Right pupil slightly larger but both reactive to 
light. Visual fields are full to confrontation. Face symmetric. 
We appreciated some dysarthria but patient reports this being 
his baseline. No pronator drift, intact strength in both arms. 
Finger-to-nose also intact bilaterally.
 
Pertinent Results:
___ 06:25AM BLOOD WBC-7.6 RBC-4.64 Hgb-12.9* Hct-39.3* 
MCV-85 MCH-27.8 MCHC-32.8 RDW-13.8 RDWSD-42.7 Plt ___
___ 09:32PM BLOOD Neuts-64.3 ___ Monos-7.5 Eos-2.9 
Baso-1.1* Im ___ AbsNeut-5.45 AbsLymp-2.02 AbsMono-0.64 
AbsEos-0.25 AbsBaso-0.09*
___ 06:25AM BLOOD ___ PTT-28.6 ___
___ 06:41AM BLOOD Glucose-142* UreaN-22* Creat-1.1 Na-140 
K-4.1 Cl-104 HCO3-25 AnGap-11
___ 09:32PM BLOOD ALT-22 AST-21 CK(CPK)-62 AlkPhos-78 
TotBili-0.4
___ 06:41AM BLOOD Calcium-9.6 Phos-3.9 Mg-1.8
___ 09:32PM BLOOD %HbA1c-7.5* eAG-169*
___ 09:32PM BLOOD Triglyc-131 HDL-48 CHOL/HD-2.8 LDLcalc-61
___ 09:32PM BLOOD TSH-2.5
___ 09:32PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

===============
Reports:
TTE: CONCLUSION:
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler.
There is normal left ventricular wall thickness with a normal 
cavity size. There is suboptimal image quality to
assess regional left ventricular function. Overall left 
ventricular systolic function is hyperdynamic. The
visually estimated left ventricular ejection fraction is 75%. 
There is no resting left ventricular outflow
tract gradient. There is echocardiographic evidence for 
diastolic dysfunction (grade indeterminate). Normal
right ventricular cavity size with normal free wall motion. The 
aortic sinus is mildly dilated with a normal
ascending aorta diameter for gender. The aortic arch diameter is 
normal with a normal descending aorta
diameter. The aortic valve leaflets are moderately thickened. 
There is no aortic valve stenosis. There is no
aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is
trivial mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear
structurally normal. There is physiologic tricuspid 
regurgitation. The estimated pulmonary artery systolic
pressure is normal. There is no pericardial effusion.
IMPRESSION: Suboptimal image quality. No definite structural 
cardiac source of embolism
identified.

-----
EXAMINATION:  Carotid Artery ultrasound 
  
INDICATION:  ___ year old man with >70% R-carotid stenosis  // 
vascular 
request. Eval for stenosis 
  
TECHNIQUE:  Real-time grayscale, color, and spectral Doppler 
ultrasound 
imaging of the carotid arteries was obtained. 
  
COMPARISON:  None 
  
FINDINGS:  
  
RIGHT: 
There is moderate heterogenous atherosclerotic plaque in the 
right carotid 
artery. 
  
Segment:    PSV (cm/s) / EDV (cm/s) 
CCA ___:   70.2 cm/s / 8.08 cm/s 
CCA Distal:  72.1 cm/s / 12 cm/s 
ICA ___:    150 cm/s / 28.8 cm/s 
ICA Mid:     182 cm/s / 27.4 cm/s 
ICA Distal:  121 cm/s / 19.4 cm/s 
ECA:          179 cm/s 
Vertebral:   75.2 cm/s 
  
ICA/CCA Ratio:  2.52 
  
The right vertebral artery flow is antegrade with a normal 
spectral waveform. 
  
  
LEFT: 
There is mild heterogenous atherosclerotic plaque in the left 
carotid artery. 
  
Segment:  PSV (cm/s) / EDV (cm/s) 
CCA ___:  121 cm/s / 12.1 cm/s 
CCA Distal: 96.2 cm/s / 16.5 cm/s 
ICA ___:   56.5 cm/s / 12.1 cm/s 
ICA Mid:    74.5 cm/s / 15.5 cm/s 
ICA Distal: 84 cm/s / 13.7 cm/s 
ECA:         108 cm/s 
Vertebral:  64.8 cm/s 
  
  
ICA/CCA Ratio: 0.87 
  
The left vertebral artery flow is antegrade with a normal 
spectral waveform. 
  
IMPRESSION:  
  
Right ICA 60-69% stenosis. 
Left ICA <40% stenosis. 

--------
EXAMINATION:  MR HEAD W AND W/O CONTRAST ___ MR HEAD 
  
INDICATION:  ___ year old man with diplopia, bilateral restricted 
uppercase, 
thalamic infarcts seen on CT.  Repeated MRI with and thin slices 
through 
brainstem is requested based on the initial noncontrast brain 
MRI results. 
  
TECHNIQUE:  Sagittal and axial T1 weighted imaging were 
performed. After 
administration of intravenous contrast, axial imaging was 
performed with 
gradient echo, FLAIR, diffusion, and T1 technique. Sagittal 
MPRAGE imaging was 
performed and re-formatted in axial and coronal orientations.  
An axial FIESTA 
sequence through the brainstem was obtained. 
  
COMPARISON:  MR head ___. 
  
FINDINGS:  
  
There is stable appearance of the symmetric T2/FLAIR 
hyperintensity in the 
medial aspect of the thalami bilaterally, which extends into the 
superior 
medial aspect of the midbrain, as well as T2/FLAIR 
hyperintensity in the right 
splenium of the corpus callosum.  These areas of FLAIR 
hyperintensity are 
again noted to demonstrate hyperintensity on diffusion-weighted 
images without 
corresponding low ADC values.  Post-contrast images demonstrate 
associated 
linear contrast enhancement in the right splenium of the corpus 
callosum 
(series 10, images 94-97), and faint curvilinear foci of 
contrast enhancement 
in the medial right thalamus (series 11, image 14, series 10, 
image 93, series 
1001, image 89). 
  
There are no new areas of hyperintensity on diffusion-weighted 
images and 
there is no slow diffusion. 
  
There is a chronic small to moderate infarct in the right 
parietal lobe with 
associated gliosis.  Also again seen are T2/FLAIR 
hyperintensities in the 
subcortical, deep, and periventricular white matter of the 
cerebral 
hemispheres, and in the bilateral pons, which are nonspecific 
but likely 
sequela of chronic small vessel ischemic disease in this age 
group.  There is 
mild age-related prominence of the ventricles.  The sulci are 
normal in size 
for age. 
  
Again seen is a chronic punctate microhemorrhage in the left 
middle cerebellar 
peduncle, image 7:9. 
  
Major arterial flow voids are grossly preserved.  Dural venous 
sinuses a 
patent on postcontrast MP RAGE images.  Specifically, the 
straight sinus is 
patent.  The internal cerebral veins and the veins ___ also 
appear 
patent. 
  
Multiple contiguous right middle ethmoid air cells are 
completely opacified, 
as seen previously, with osseous remodeling on the preceding CT 
indicating 
chronicity.  There is mild mucosal thickening in bilateral 
anterior ethmoid 
air cells and frontoethmoidal recesses.  There is also trace 
fluid signal in 
the mastoid air cells, which may be secondary to prolonged 
supine positioning 
in the inpatient setting.  There is evidence of bilateral 
cataract surgery. 
  
Sagittal images again demonstrate mild degenerative changes in 
the included 
upper cervical spine, incompletely evaluated. 
  
IMPRESSION: 
  
  
1. Stable appearance of the symmetric signal abnormalities in 
the bilateral 
medial thalami extending to the superomedial midbrain, and in 
the right 
splenium of the corpus callosum, on T2/FLAIR and diffusion 
tracer images, 
without corresponding low signal on the ADC map.  There is 
linear contrast 
enhancement within the right splenium abnormality, and faint 
curvilinear 
contrast enhancement in the right medial thalamus.  The findings 
may be 
secondary to subacute infarction, which may be embolic in 
nature.  
Inflammatory and viral etiologies may also be considered.  
Neoplastic etiology 
is less likely. 
2. Chronic small to moderate right parietal lobe infarct. 
3. Nonspecific bilateral supratentorial and pontine T2/FLAIR 
white matter 
hyperintensities, which likely represent the sequelae of chronic 

microangiopathy in this age. 
4. Chronic punctate microhemorrhage in the left middle 
cerebellar peduncle. 
5. Complete opacification of multiple right middle ethmoid air 
cells, with 
osseous remodeling on the preceding CT indicating chronicity. 
---------

ECG - sinus

 
Brief Hospital Course:
Mr. ___ is a ___ right-handed man with past medical 
history of previous transient ischemic attacks and strokes 
causing diplopia (evidence of prior bilateral thalamic stroke on 
brain imaging), hypertension, hyperlipidemia, L3-L4 spinal 
stenosis, who was admitted to the stroke service with binocular 
horizontal and vertical diplopia secondary to an acute ischemic 
stroke. His exam on admission was notable for left ptosis, 
limited left eye abduction (appears down and out) and limited 
left eye upgaze. He has left beating torsional nystagmus on left 
lateral gaze in left eye. Left eye ADDuction is full. He has 
bilateral restricted upgaze with limited downgaze, more 
prominent limited downgaze in his right eye. He has right NLFF 
with delayed activation. He has dysmetria on FNF and HKS and an 
unsteady gait. He has ? physiologic anisocoria and is s/p 
cataract surgery (right pupil 3, left pupil 2). Imaging was 
notable for CTA finding of an aortic arch atheroma, with 
atherosclerosis in the origin of bilateral vertebrals 
(right?left) as well as an extracranial ICA plaque on the right 
(asymptomatic during admission). He underwent MRI brain which 
demonstrated a small acute infarct in the midbrain, 
periaqueductal, left side, also splenium on the left. He also 
has bilateral paramedian thalamic infarcts without aDC correlate 
but FLAIR correlate, suggesting more chronicity. He underwent 
MRI with contrast to rule out malignancy or inflammation and did 
not show findings of enhancement in post contrast series. 
Etiology of stroke is likely athero-embolism, but cannot rule 
out cardio-embolic. TTE on admission was without PFO but was 
subobtimal study. Telemetry was without arrhythmia. He will need 
ZioPatch for 4 weeks to rule out paroxysmal A-Fib. Plan to 
continue patient on ASA 81mg daily, treat with Clopidogrel for 4 
weeks, and start on Atorvastatin 80mg dialy ongoing.

Exam at time of DC: alert, eyepatch on right eye this am. Left 
eye is downward and slightly inward. No conjugate vertical 
diplopia. Right pupil slightly larger but both reactive to 
light. Visual fields are full to confrontation. Face symmetric. 
We appreciated some dysarthria but patient reports this being 
his baseline. No pronator drift, intact strength in both arms. 
Finger-to-nose also intact bilaterally.

Transitional Issues:
- STOP clopidogrel in 4 weeks (___)
- Asymptomatic right ICA stenosis: Carotid US 60-69% (max PSV 
180cm/s in mid ICA). Patient to follow up with vascular 
outpatient. Call 
- Patient to follow up with neuro-ophthomology outpatient. 
- patient to follow up with stroke in ___ months. 
- outpatient workup on modifiable risk factors, including 
maintaining optimal glycemic control **Diabetes HgA1C 7.5%.

==================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes
2. DVT Prophylaxis administered? (x) Ye
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes
4. LDL documented? (x) Yes (LDL = 61 )
5. Intensive statin therapy administered? (x) Yes
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL 
___, reason not given:10. Discharged on antithrombotic 
therapy? (x) Yes [Type: () Antiplatelet - () Anticoagulation] - 
() No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. MetFORMIN (Glucophage) 500 mg PO DAILY 
4. Rosuvastatin Calcium 20 mg PO QPM 
5. Aspirin 81 mg PO DAILY 
6. Celecoxib 50 mg oral BID 
7. TraMADol 50 mg PO BID 
8. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*3 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*28 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Hydrochlorothiazide 12.5 mg PO DAILY  
5.  Losartan Potassium 100 mg PO DAILY  
6.  MetFORMIN (Glucophage) 500 mg PO DAILY  
7.  Omeprazole 20 mg PO DAILY  
8.  TraMADol 50 mg PO BID  
9. HELD- Celecoxib 50 mg oral BID  This medication was held. Do 
not restart Celecoxib until discussing with PCP the risk and 
benefits 
10.Outpatient Speech/Swallowing Therapy
Acute Stroke ICD 10 - ___.
Evaluation and Treatment 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of horizontal and vertical 
double vision resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Prior Strokes
Prior TIA
Age
Hypertension
Hyperlipidemia
Atherosclerosis of vessels that lead from heart to brain  

We are changing your medications as follows:

- We STOPPED rosuvastatin and STARTED atorvastatin 80 mg daily.
- We STARTED clopidogrel (brand name ___ 75 mg daily for 4 
weeks (Last Day ___ in addition to aspirin 81 mg which you 
should take ongoing. 
- We want you to continue taking aspirin 81 mg indefinitely
- Continue taking your other medications.
- Please follow-up with your primary care provider regarding 
diabetes management.

Please take your other medications as prescribed.
Please follow up with Neurology and your primary care physician 
as listed below.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body
Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___